US07786040B2
Hydrazine monohydrate (1.75 g; 35 mmols) was dissolved in ethanol (15 ml), and methyl 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylate (1.29 g; 7 mmols) was added thereto, followed by stirring at room temperature for 10 hours. Ethanol was evaporated under reduced pressure and, after adding thereto water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, the solvent was evaporated. The residue was washed with a mixed solvent of hexane-ethyl acetate to obtain 1.2 g of 4-cyclopropyl-1,2,3-thiadiazole-5-carbohydrazide.

reactant | Hydrazine monohydrate | 35 mmols, 1.75 g | O.NN
reactant | methyl 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylate | 7 mmols, 1.29 g | C1(CC1)C=1N=NSC1C(=O)OC | C7H8N2O2S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-cyclopropyl-1,2,3-thiadiazole-5-carbohydrazide | 1.2 g, Yield: 95% | C1(CC1)C=1N=NSC1C(=O)NN | C6H8N4OS
